US05990105
0.20 g (0.00051 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 10 ml of dioxane and treated with 8.0 ml of 3-diethylamino-1propylamine. The mixture was stirred at room temperature for 18 hrs., the solvent was removed and the residue was chromatographed twice on silica gel, firstly with 20% methanol in dichloromethane and then with 10% methanol in dichloromethane. There was obtained 0.09 g (41%) of N-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-N',N'-diethylpropane-1,3-diamine as a pale yellow, amorphous solid. MS (ISP): me/e=443, 441 (C18H26BrN4O2S+).

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.00051 mol, 0.20 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | 3-diethylamino-1propylamine | 8.0 ml | C(C)N(CCCN)CC | C7H18N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-N',N'-diethylpropane-1,3-diamine | 0.09 g, 41% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCCN(CC)CC | C18H25BrN4O2S
